US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-phenylpropionate
To a solution of diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate (200 mg) in pyridine (5 ml) was added acetic anhydride (3 ml) and the mixture was stirred at room temperature for 4 days. After concentration under reduced pressure, the residue was dissolved in ethyl acetate (100 ml) and washed with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine respectively. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was passed through silica gel column chromatography, followed by elution with ethyl acetate-hexane (1:1). The effective fractions were combined and concentrated under reduced pressure to afford the title compound (85 mg).

reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C42H49N3O10
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-phenylpropionate | 85 mg | C(C)(=O)O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C50H57N3O14
